US07384934B2
2-Methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-one
Combine 2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene-10-ylamine hydrochloride (U.S. Pat. No. 5,229,382) (50 g, 0.19 mol) and solid potassium carbonate (182 g, 1.32 mol) in a mixture of water (1 L) and ethanol (450 mL) and heat at 85° C. for 48 h. Cool to room temperature, and place in ice bath for 2 h. The desired material precipitates out as a yellow solid. Collect solid by filtration, wash with cold water, air-dry for a few minutes and place in the vacuum oven at 45° C. for 48 h to obtain 41.9 g of the title compound, which can be used directly on the next step without further purification: mass spectrum (APCI): m/z=231.0 (M+1).

reactant | 2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene-10-ylamine hydrochloride | Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | potassium carbonate | 1.32 mol, 182 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1 L | O | H2O
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | 2-Methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-one | 41.9 g | CC1=CC=2C(NC3=C(NC2S1)C=CC=C3)=O | C12H10N2OS
